US05254558
To a solution of 1-allyl-5-benzyloxycarbonylamino-2-phenylpyrimid-6(1H)-one in tetrahydrofuran (200 mL) and water (30 mL) was added N-methylmorpholine-N-oxide (9.82 g) and osmium tetroxide (4.4 mL, 4% in water). The resulting solution was allowed to stir overnight. N-Methylmorpholine-N-oxide (1.65 g) was added and the solution was allowed to stir for 4 h. Sodium thiosulfate (saturated aqueous solution, 10 mL) and diatomoaceous earth (30 g) were added and the mixture was stirred for 0.5 h. The mixture was filtered and evaporated to give an oil. This oil was dissolved in ethyl acetate, washed (saturated aqueous sodium thiosulfate solution, 1N hydrochloric acid, brine), and evaporated to give an oil. This oil was dissolved in ethanol (230 mL) and a solution of sodium periodate (27 g) in water (40 mL) was added. The mixture was stirred for 2 h, filtered through diatomaceous earth and evaporated. The residue was dissolved in ethyl acetate and the solution was washed with water, dried, and evaporated to provide 5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinylacetaldehyde (25 g) as a white solid; TLC: ethyl acetate:diethyl ether (1:1), Rf =0.8.

reactant | 1-allyl-5-benzyloxycarbonylamino-2-phenylpyrimid-6(1H)-one | C(C=C)N1C(=NC=C(C1=O)NC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C21H19N3O3
reactant | N-methylmorpholine-N-oxide | 9.82 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | N-Methylmorpholine-N-oxide | 1.65 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium periodate | 27 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 230 mL | C(C)O | C2H6O
solvent | water | 40 mL | O | H2O
catalyst | osmium tetroxide | 4.4 mL | [Os](=O)(=O)(=O)=O
product | 5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinylacetaldehyde | 25 g | C(C1=CC=CC=C1)OC(=O)NC1=CN=CN(C1=O)C(CC1=CC=CC=C1)=O | C20H17N3O4
